US09402841B2
Step A: (S)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate
To (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate (1.906 g, 10.18 mmol) in NMP (10 mL) at 0° C. was added NaH (0.339 g, 8.48 mmol). The mixture was stirred for 5 minutes and then 1-chloroisoquinoline-3-carbonitrile (1.6 g, 8.48 mmol) was added. The reaction mixture was heated at 160° C. for 30 minutes in a microwave reactor and was subsequently diluted with water and extracted with EtOAc (2×). The organic phase was dried over Na2SO4 and concentrated. The crude product was purified by silica column chromatography eluting with a gradient of 0-75% EtOAc in hexane to give the title compound as a yellow solid (1.61 g, 55.9%). ESI-MS m/z [M+H-tert-butyl]+ 284.2.

reactant | (S)-tert-butyl 3-hydroxypyrrolidine-1-carboxylate | 10.18 mmol, 1.906 g | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | NaH | 8.48 mmol, 0.339 g | [H-].[Na+]
reactant | 1-chloroisoquinoline-3-carbonitrile | 8.48 mmol, 1.6 g | ClC1=NC(=CC2=CC=CC=C12)C#N | C10H5ClN2
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | (S)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 1.61 g, 55.9% | C(#N)C=1N=C(C2=CC=CC=C2C1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C19H21N3O3
